US04990551
Maleic anhydride/methyl vinyl ether (MA/MVE copolymer)
87.3 g of maleic anhydride and 1.46 g of dilauroyl peroxide were introduced into a 2 1 Juchheim pressurized reaction vessel, and the reaction apparatus was then flushed with nitrogen. When the apparatus was free from oxygen, 310 g of methyl vinyl ether which had been dried over solid sodium hydroxide and freshly distilled, were added. The reaction mixture was warmed to 55° C. with stirring and maintained at this temperature for 2 hours under pressure. After the mixture had cooled to 20° C., excess methyl vinyl ether was distilled off, and the reaction product was removed from the vessel. This gave 118 g (84.9 % of theory) of an MA/MVE copolymer having the following properties: loss on drying at 105° C.: 0.92 %, at 60° C. in vacuo: 0.25 %. The particle size distribution, which was measured by sieve analysis, gave the following values:

reactant | maleic anhydride | 87.3 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | dilauroyl peroxide | 1.46 g | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
product | Maleic anhydride methyl vinyl ether | C1(\C=C/C(=O)O1)=O.C(=C)OC | InChI=1S/C4H2O3.C3H6O/c5-3-1-2-4(6)7-3;1-3-4-2/h1-2H;3H,1H2,2H3
